US03954753
Preparation of 2-amino-5-chloropyrazine-3-carboxylic acid pyrrolidide
Methyl 2-amino-5-chloropyrazine-3-carboxylate was treated as described in Example 1 with 25 ml. of pyrrolidine in 100 ml. of methanol. Crystallization from ether yielded 7 g. (72%) of the above-named product with m.p. 90°-95°. Recrystallization from 2-propanol gave pale yellow needles with m.p. 95°-97°.

reactant | Methyl 2-amino-5-chloropyrazine-3-carboxylate | NC1=NC=C(N=C1C(=O)OC)Cl | C6H6ClN3O2
reactant | pyrrolidine | N1CCCC1 | C4H9N
solvent | methanol | CO | CH4O
product | 2-amino-5-chloropyrazine-3-carboxylic acid pyrrolidide | NC1=NC=C(N=C1C(=O)N1CCCC1)Cl | C9H11ClN4O
